US07091214B2
A solution of tert-butyl[2-(7-bromo-3-nitroquinolin-4-ylamino)ethyl]carbamate (165.0 g, 401.2 mmol) in acetonitrile (3.3 L) and, isopropanol (990 mL) and 5% platinum on carbon (13.2 g) were added to a Parr vessel, which was placed under hydrogen pressure (50 psi, 3.4×105 Pa) overnight. The mixture was filtered through a layer of CELITE filter aid, and the filtrate was concentrated under reduced pressure to provide 139.29 g of tert-butyl [2-(3-amino-7-bromoquinolin-4-ylamino)ethyl]carbamate as a yellow solid. The product was suspended in a mixture of dichloromethane (4 mL/g) and chloroform (8 mL/g), and the suspension was divided into two equal portions.

reactant | tert-butyl[2-(7-bromo-3-nitroquinolin-4-ylamino)ethyl]carbamate | 401.2 mmol, 165.0 g | C(C)(C)(C)OC(NCCNC1=C(C=NC2=CC(=CC=C12)Br)[N+](=O)[O-])=O | C16H19BrN4O4
reactant | isopropanol | 990 mL | C(C)(C)O | C3H8O
solvent | acetonitrile | 3.3 L | C(C)#N | C2H3N
catalyst | platinum on carbon | 13.2 g | [Pt] | Pt
product | tert-butyl [2-(3-amino-7-bromoquinolin-4-ylamino)ethyl]carbamate | 139.29 g | NC=1C=NC2=CC(=CC=C2C1NCCNC(OC(C)(C)C)=O)Br | C16H21BrN4O2
